US07932272B2
2-Amino-6-(3-methoxy-1-(Z)-propenyl)-N-(5-phenoxy-thiophen-2-ylmethyl)-nicotinamide
To a mixture of 2-amino-6 (3methoxy-1-propynyl)-N-(5-phenoxy-thiophen-2-yl methyl)-nicotinamide described in Example A-91 (11 mg, 0.028 mmol) and tetrahydrofuran (1 mL) were added quinoline (5.4 mg, 0.042 mmol) and Linear catalyst (5.0 mg), and the mixture was stirred under hydrogen atmosphere at room temperature for 15 minutes. The interior of the reaction system was exchanged with nitrogen, then, filtration was carried out through Celite pad, and the solvent was evaporated in vacuo. The residue was filtered by NH silica gel, then, purified by reverse phase high performance liquid chromatography (acetonitrile-water mobile phase (containing 0.1% trifluoroacetic acid) was used), and trifluoroacetic acid salt of the title compound (4.4 mg, 0.0086 mmol, 31%) was obtained.

reactant | 2-amino-6 (3methoxy-1-propynyl)-N-(5-phenoxy-thiophen-2-yl methyl)-nicotinamide | NC1=C(C(=O)NCC=2SC(=CC2)OC2=CC=CC=C2)C=CC(=N1)C#CCOC | C21H19N3O3S
reactant | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
reactant | quinoline | 0.042 mmol, 5.4 mg | N1=CC=CC2=CC=CC=C12 | C9H7N
solvent | acetonitrile water | C(C)#N.O
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 2-Amino-6-(3-methoxy-1-(Z)-propenyl)-N-(5-phenoxy-thiophen-2-ylmethyl)-nicotinamide | 0.0086 mmol, 4.4 mg, 31% | NC1=C(C(=O)NCC=2SC(=CC2)OC2=CC=CC=C2)C=CC(=N1)\C=C/COC | C21H21N3O3S
